US08461158B2
To a mixture of tert-butyl 4-[(3-hydroxypropyl)amino]piperidine-1-carboxylate (Yokoyama et al., Bioorg. Med. Chem. 2008, 16, 7968) (710 mg, 2.75 mmol) and dry powdered K2CO3 (5.0 g, 36.0 mmol) in CH2Cl2 (20 mL) at 0° C. was added chloromethanesulfonyl chloride (1 mL, excess). The reaction mixture was stirred at 20° C. for 4 hrs, a solution of 40% aqueous dimethylamine (5 mL) was then added, and stirring was continued for a further 20 hrs. The organic layer was separated and the aqueous layer was further extracted with CH2Cl2 (2×20 mL). The combined organic fractions were washed with water (50 mL) and dried (Na2SO4). The solvent was removed to give an oily product. Chromatography on neutral alumina eluting with CH2Cl2/MeOH (98:2) gave tert-butyl 4-{[(chloromethyl)sulfonyl][3-(dimethylamino)propyl]amino}-1-piperidinecarboxylate, as an oil (946 mg, 87%): 1H NMR (CDCl3) δ 4.47 (s, 2H), 4.22 (br, 2H), 3.82-3.75 (m, 1H), 3.31-3.27 (m, 2H), 2.28-2.46 (m, 2H), 2.76-2.70 (m, 2H), 2.26 (t, J=6.9 Hz, 2H), 2.23 (s, 6H), 1.87-1.64 (m, 6H), 1.46 (s, 9H).

reactant | tert-butyl 4-[(3-hydroxypropyl)amino]piperidine-1-carboxylate | 2.75 mmol, 710 mg | OCCCNC1CCN(CC1)C(=O)OC(C)(C)C | C13H26N2O3
reactant | K2CO3 | 36.0 mmol, 5.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethanesulfonyl chloride | 1 mL | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | dimethylamine | 5 mL | CNC | C2H7N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | tert-butyl 4-{[(chloromethyl)sulfonyl][3-(dimethylamino)propyl]amino}-1-piperidinecarboxylate | ClCS(=O)(=O)N(C1CCN(CC1)C(=O)OC(C)(C)C)CCCN(C)C | C16H32ClN3O4S
